.include '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/design.ngspice'
.lib '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice' ff
.temp 125
.subckt strongarm_comparator VDD VSS INP INN CLK OUTP OUTN
XM1  TAIL CLK VSS VSS nfet_03v3 L=0.5u W=2u nf=1
XM2  D1 INP TAIL VSS nfet_03v3 L=0.6u W=16u nf=8
XM3  D2 INN TAIL VSS nfet_03v3 L=0.6u W=16u nf=8
XM4  OUTN OUTP D1 VSS nfet_03v3 L=0.5u W=6u nf=3
XM5  OUTP OUTN D2 VSS nfet_03v3 L=0.5u W=6u nf=3
XM6  OUTN OUTP VDD VDD pfet_03v3 L=0.5u W=6u nf=3
XM7  OUTP OUTN VDD VDD pfet_03v3 L=0.5u W=6u nf=3
XM8  OUTN CLK VDD VDD pfet_03v3 L=0.5u W=2u nf=1
XM9  OUTP CLK VDD VDD pfet_03v3 L=0.5u W=2u nf=1
XM10 D1 CLK VDD VDD pfet_03v3 L=0.5u W=2u nf=1
XM11 D2 CLK VDD VDD pfet_03v3 L=0.5u W=2u nf=1
.ends

Vsupply0 VDD 0 DC 3.000000
Vsupply1 VSS 0 DC 0.0
Vsrc0 INP 0 PWL(0 1.6525000 1e-07 1.6550000 2e-07 1.6625000 3e-07 1.6750000 4e-07 1.7000000 5e-07 1.6475000 6e-07 1.6450000 7e-07 1.6375000 8e-07 1.6250000 9e-07 1.6000000)
Vsrc1 INN 0 PWL(0 1.6475000 1e-07 1.6450000 2e-07 1.6375000 3e-07 1.6250000 4e-07 1.6000000 5e-07 1.6525000 6e-07 1.6550000 7e-07 1.6625000 8e-07 1.6750000 9e-07 1.7000000)
Vsrc2 CLK 0 PULSE(0 3.000000 2e-08 0.1n 0.1n 5e-08 1e-07)
C_load_OUTP OUTP 0 2e-14
C_load_OUTN OUTN 0 2e-14
Xdut VDD VSS INP INN CLK OUTP OUTN strongarm_comparator

.probe tran i(Vsupply0)
.control
tran 100p 1e-06
wrdata comb.dat v(OUTP) v(OUTN) v(CLK) i(Vsupply0)
.endc
.end
